US08633211B2
N-(2,6-Dichloro-pyridin-4-yl)-2-{3-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-yl}-acetamide
To a solution of {1-[(2,6-dichloro-pyridin-4-ylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid (13.5 mg, 0.0318 mmol) in dry NMP (1.5 ml), HATU (13.3 mg, 0.035 mmol) is added followed by triethylamine (4.89 μL, 0.035 mmol). The orange solution is stirred at RT for 10 minutes, then treated with 1-methyl piperazine (3.89 μL, 0.035 mmol). The reaction mixture is stirred at RT and monitored by HPLC/LCMS until the starting material is consumed. The reaction mixture is partitioned between EtOAc (5 ml) and water (5 ml). The organic layer is separated and washed with brine (5 ml), dried (MgSO4), filtered and concentrated in vacuo. The crude product is purified by passing down a 5 g Isolute™ SCX2 (solid-supported sulfonic acid resin) cartridge, eluting with DCM (20 ml), MeOH (20 ml), and 7N NH3 in MeOH. The basic ammonia wash is concentrated in vacuo to afford the title compound as a white solid, [M+H]+ 505.

reactant | {1-[(2,6-dichloro-pyridin-4-ylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid | 0.0318 mmol, 13.5 mg | ClC1=NC(=CC(=C1)NC(=O)CN1C(N(C(C2=CC=CC=C12)=O)CC(=O)O)=O)Cl | C17H12Cl2N4O5
reactant | HATU | 0.035 mmol, 13.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.035 mmol, 4.89 μL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl piperazine | 0.035 mmol, 3.89 μL | CN1CCNCC1 | C5H12N2
solvent | NMP | 1.5 ml | CN1CCCC1=O | C5H9NO
product | N-(2,6-Dichloro-pyridin-4-yl)-2-{3-[2-(4-methyl-piperazin-1-yl)-2-oxo-ethyl]-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-yl}-acetamide | ClC1=NC(=CC(=C1)NC(CN1C(N(C(C2=CC=CC=C12)=O)CC(=O)N1CCN(CC1)C)=O)=O)Cl | C22H22Cl2N6O4
